US07790756B2
A degassed mixture of ethyl 5-chloro-2-iodobenzoate (0.621 g, 2.00 mmol), Pd(PPh3)4 (0.116 mg, 0.1 mmol), quinolin-6-ylboronic acid (0.381 g, 2.2 mmol), K2CO3 (0.553 g, 4.0 mmol), dimethoxyethane (20 mL), and water (5 mL) was heated under reflux overnight. Solvents were removed under reduced pressure. The residue was diluted with sat'd NH4Cl (15 mL) and extracted with EtOAc (3×30 mL). The combined organic layers were dried (MgSO4), concentrated in vacuo and purified by chromatography to afford ethyl 5-chloro-2-(quinolin-6-yl)benzoate (0.244 g, 39% yield) as a colorless oil. MS (ESI) m/z: 312.0 (M+H+).

reactant | ethyl 5-chloro-2-iodobenzoate | 2.00 mmol, 0.621 g | ClC=1C=CC(=C(C(=O)OCC)C1)I | C9H8ClIO2
reactant | quinolin-6-ylboronic acid | 2.2 mmol, 0.381 g | N1=CC=CC2=CC(=CC=C12)B(O)O | C9H8BNO2
reactant | K2CO3 | 4.0 mmol, 0.553 g | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethoxyethane | 20 mL | C(OC)COC | C4H10O2
catalyst | Pd(PPh3)4 | 0.1 mmol, 0.116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 5 mL | O | H2O
product | ethyl 5-chloro-2-(quinolin-6-yl)benzoate | 0.244 g, 39% yield | ClC=1C=CC(=C(C(=O)OCC)C1)C=1C=C2C=CC=NC2=CC1 | C18H14ClNO2
